US06362211B1
b) 8a-(1H-Imidazol-4-yl)-5,6,7,8,8a,9-hexahydro-4bH-fluoren-3-ol
4-(3-Methoxy-4b,5,6,7,8,9-hexahydrofluoren-8a-yl)-1H-imidazole (0.042 g) was mixed with 48% HBr (2 ml) and refluxed for 2 hours. After cooling to the ambient temperature, water (2 ml) was added and the pH was adjusted to 10 with 25% NH3-solution. The precipitated crude product was filtered and washed with water (10 ml). Recrystallisation from methylene chloride/methanol (95:5) gave the pure product. The yield was 0.030 g.

reactant | 4-(3-Methoxy-4b,5,6,7,8,9-hexahydrofluoren-8a-yl)-1H-imidazole | 0.042 g | COC=1C=CC=2CC3(CCCCC3C2C1)C=1N=CNC1 | C17H20N2O
reactant | HBr | 2 ml | Br | BrH
reactant | NH3 | N | H3N
solvent | water | 2 ml | O | H2O
product | 8a-(1H-Imidazol-4-yl)-5,6,7,8,8a,9-hexahydro-4bH-fluoren-3-ol | N1C=NC(=C1)C12CCCCC1C=1C=C(C=CC1C2)O | C16H18N2O
